US07504404B2
3-{5-[5-(4-Chloro-phenyl)-7-methyl-pyrazolo[1,5-a]pyrimidin-3-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide
The title compound was prepared from 5-(4-chloro-phenyl)-7-methyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.24) (144 mg, 0.5 mmol) and N-hydroxy-3-sulfamoyl-benzamidine [CAS-No. 9000-88-7] (161 mg, 0.75 mmol) according to general procedure II. Obtained after purification by flash chromatography (ethyl acetate/heptane) and crystallization (MeOH/dichloromethane) as a light yellow solid (70 mg, 30%). MS (EI) 466.1 [(M)+]; mp 275° C.

reactant | 5-(4-chloro-phenyl)-7-methyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.5 mmol, 144 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C)N=CC2C(=O)O | C14H10ClN3O2
reactant | N-hydroxy-3-sulfamoyl-benzamidine | 0.75 mmol, 161 mg | ONC(C1=CC(=CC=C1)S(N)(=O)=O)=N | C7H9N3O3S
product | 3-{5-[5-(4-Chloro-phenyl)-7-methyl-pyrazolo[1,5-a]pyrimidin-3-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C)N=CC2C2=NC(=NO2)C=2C=C(C=CC2)S(=O)(=O)N | C21H15ClN6O3S
